US09376442B2
Ethyl 4-[2-(cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate
Starting from ethyl 4-(2-cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate (example D.a12) and commercially available (2-chloromethoxy-ethyl)trimethyl-silane the title compound is obtained as yellow viscous oil.

reactant | ethyl 4-(2-cyclopropylmethoxy-5-fluoro-4-methoxy-phenyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate | C1(CC1)COC1=C(C=C(C(=C1)OC)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)OCC | C21H22FN3O4
reactant | (2-chloromethoxy-ethyl)trimethyl-silane | ClCOCC[Si](C)(C)C | C6H15ClOSi
product | Ethyl 4-[2-(cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate | C1(CC1)COC1=C(C=C(C(=C1)OC)F)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)OCC | C27H36FN3O5Si
